US04861791
3,5-Dichloro-4-hydroxy-N-(2-hydroxyethyl)benzamide (400 gm, 1.61 moles) was ground and sifted through a No. 20 mesh screen prior to use. To a stirred suspension of the above in 2.8 L isopropyl acetate was added thionyl chloride (285 gm, 2.41 moles) in a steady stream. An exotherm to 45°-50° C. developed and the gray suspension appeared lighter after a short time. After stirring 2.5 hr, the suspension was cooled to room temperature and filtered. The cake was rinsed with isopropyl acetate and dried in a vacuum oven at room temperature overnight. There was obtained 371 gm (86% yield) of 2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenol in the form of its hydrochloride salt, m.p. 189°-191° C., acceptable for use in the next step. The purified free base had the m.p. 195° C. (decompn.).

reactant | 3,5-Dichloro-4-hydroxy-N-(2-hydroxyethyl)benzamide | 1.61 moles, 400 gm | ClC=1C=C(C(=O)NCCO)C=C(C1O)Cl | C9H9Cl2NO3
reactant | thionyl chloride | 2.41 moles, 285 gm | S(=O)(Cl)Cl | Cl2OS
product | 2,6-dichloro-4-(4,5-dihydro-2-oxazolyl)phenol | 371 gm, 86% yield | ClC1=C(C(=CC(=C1)C=1OCCN1)Cl)O | C9H7Cl2NO2
